US09145391B2
Racemic methyl trans-4-[1-(5-bromopyridin-2-yl)hydroxyethyl]cyclohexanecarboxylate (500 mg, 1.461 mmol) was dissolved in DMF (7.3 mL) and cooled to 0° C. Sodium hydride (60 wt %, 117 mg, 2.92 mmol) was added in one portion. The mixture was stirred and allowed to warm to room temperature. After 20 minutes, methyl iodide (0.183 mL, 2.92 mmol) was added, and the reaction was stirred at room temperature for 30 minutes. The mixture was diluted with water, ethyl acetate, and brine. The layers were separated, and the organic portion dried over magnesium sulfate, filtered, and concentrated in vacuo. Purification via silica gel column chromatography (20% EtOAc:hexanes) gave racemic methyl trans-4-[1-(5-bromopyridin-2-yl)-1-methoxyethyl]cyclohexanecarboxylate as a colorless oil. MS ESI calcd. for C16H23BrNO3 [M+H]+ 356 and 358. found 356 and 358. 1H NMR (500 MHz, DMSO-d6) 8.64 (d, J=2.2 Hz, 1H), 8.01 (dd, J=2.3, 8.5 Hz, 1H), 7.37 (d, J=9.1 Hz, 1H), 3.54 (s, 3H), 2.98 (s, 3H), 2.20-1.50 (m, 5H), 1.55 (s, 3H), 1.40-0.75 (m, 5H).

reactant | Racemic methyl trans-4-[1-(5-bromopyridin-2-yl)hydroxyethyl]cyclohexanecarboxylate | 1.461 mmol, 500 mg | BrC=1C=CC(=NC1)C(CO)[C@@H]1CC[C@H](CC1)C(=O)OC | C15H20BrNO3
reactant | Sodium hydride | 2.92 mmol, 117 mg | [H-].[Na+]
reactant | methyl iodide | 2.92 mmol, 0.183 mL | CI | CH3I
reactant | DMF | 7.3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | racemic methyl trans-4-[1-(5-bromopyridin-2-yl)-1-methoxyethyl]cyclohexanecarboxylate | BrC=1C=CC(=NC1)C(C)(OC)[C@@H]1CC[C@H](CC1)C(=O)OC | C16H22BrNO3
